US07339059B2
A solution of 5-chloro-1-benzofuran-2-carboxylic acid (827 mg, 42 mmol) in thionyl chloride (4 mL) was refluxed over night. The solvent was removed in vacuo to give the 5-chloro-1-benzofuran-2-carbonyl chloride in quantitative yield.

reactant | 5-chloro-1-benzofuran-2-carboxylic acid | 42 mmol, 827 mg | ClC=1C=CC2=C(C=C(O2)C(=O)O)C1 | C9H5ClO3
reactant | thionyl chloride | 4 mL | S(=O)(Cl)Cl | Cl2OS
product | 5-chloro-1-benzofuran-2-carbonyl chloride | quantitative yield | ClC=1C=CC2=C(C=C(O2)C(=O)Cl)C1 | C9H4Cl2O2
